US07183306B2
To a solution of (2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine dihydrochloride (126.4 mg) and Et3N (125 μl) in CH2Cl2 (2 ml) was added methanesulfonyl chloride (34.7 μl ) under ice bath cooling. The mixture was stirred at ambient temperature for 1 hour. Additional methanesulfonyl chloride (6.9 μl ) and Et3N (41.6 μl) were added and the reaction mixture was stirred at ambient temperature for 30 minutes. The mixture was concentrated in vacuo, and the residue was partitioned between AcOEt and 1M HCl. The aqueous layer was reextracted with AcOEt. The combined organic layers were washed with saturated aqueous sodiumbicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer silica gel chromatography developed by AcOEt/n-hexane=70%. The seaparated silica gel was extracted with 10% MeOH/CDCl3 and the solvent was evaporated in vacuo. The residue was crystallized from AcOEt-IPE to give N-(2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methane-sulfonamide (48.0 mg) as white powder.

reactant | (2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)amine dihydrochloride | 126.4 mg | Cl.Cl.C(=C)(C)C1=NN(C(=C1)C1=CC=C(OCCN)C=C1)C=1C=NC(=CC1)OC
reactant | Et3N | 125 μl | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 34.7 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 6.9 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 41.6 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | N-(2-{4-[3-isopropenyl-1-(6-methoxy-3-pyridinyl)-1H-pyrazol-5-yl]phenoxy}ethyl)methane-sulfonamide | 48.0 mg | C(=C)(C)C1=NN(C(=C1)C1=CC=C(OCCNS(=O)(=O)C)C=C1)C=1C=NC(=CC1)OC | C21H24N4O4S
